US04273709
A solution of (3S, 4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-(3-p-nitrobenzyloxycarbonyl-2-oxopropyl)-azetidin-2-one (1.0 mmol) in 20 ml of 9:1 (v/v) methanol-water is cooled to 0° C. Concentrated hydrochloric acid (0.34 ml) is added and the resulting solution is stirred at 0° C. for 15 min., then allowed to warm to room temperature. After 2.5 hrs, at room temperature the reaction mixture is diluted with ethyl acetate (25 ml), washed with water (10 ml) and brine, dried over magnesium sulfate and concentrated in vacuo to yield (3S, 4R)-3-[(R)-1-hydroxyethyl]-4-(3-p-nitrobenzyloxycarbonyl-2-oxopropyl)-azetidin-2-one.

reactant | (3S, 4R)-1-(t-butyldimethylsilyl)-3-[(R)-1-hydroxyethyl]-4-(3-p-nitrobenzyloxycarbonyl-2-oxopropyl)-azetidin-2-one | 1.0 mmol | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)[C@@H](C)O)=O | C22H32N2O7Si
reactant | hydrochloric acid | 0.34 ml | Cl | ClH
solvent | methanol water | 20 ml | CO.O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-3-[(R)-1-hydroxyethyl]-4-(3-p-nitrobenzyloxycarbonyl-2-oxopropyl)-azetidin-2-one | O[C@H](C)[C@H]1C(N[C@@H]1CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C16H18N2O7
